US06342095B1
In 15 g of water, were dissolved 2 g of the thus-obtained 4-aminophenacylpyridinium chloride hydrochloride, and 4.5 g of a basic ion-exchange resin (Amberlite IRA400-OH) were added to the solution. After stirring the mixture, it was filtered to remove the ion-exchange resin, thereby obtaining an aqueous solution of 4-aminophenacylpyridinium chloride. The aqueous solution containing 1.3 g of 4-aminophenacylpyridinium chloride in 25 g of water was refluxed with 1 g of silver nitrate for 90 minutes. Precipitate formed was removed by filtration. To the resultant filtrate, were added 5 g of carbon black having a surface area of 200 m2/g and a DBPA of 122 ml/100 g, and the resultant mixture was heated to about 80° C. After 0.52 g of concentrated hydrochloric acid were added, a solution of sodium nitrite in a small amount of water was added, and the resultant dispersion was stirred for 1.5 hours. As a result, a diazonium salt with an NN+C6H4COCH2(N+C5H5) group having the following structure was formed and reacted to carbon black, thereby obtaining a product with a C6H4COCH2(N+C5H5) group bonded to the surface of the carbon black.

reactant | 4-aminophenacylpyridinium chloride hydrochloride | 2 g | Cl.[Cl-].NC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1
solvent | water | 15 g | O | H2O
product | 4-aminophenacylpyridinium chloride | [Cl-].NC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C13H12N2O.ClH/c14-12-6-4-11(5-7-12)13(16)10-15-8-2-1-3-9-15;/h1-9H,10H2,(H-,14,16);1H
